US04060526
Step 2. 1-(2Chloropropyl)-4-phenylpiperazine dihydrochloride
1-(2-Hydroxypropyl)-4-phenylpiperazine hydrochloride (155 g.) was suspended in 1200 ml. dry chloroform and 87.5 ml. thionyl chloride added dropwise. The mixture was refluxed 21/2 hrs, and cooled overnight at room temperature. The solid was filtered, washed with chloroform, them with ether, and dried to give 175 g., m. 216-18° .

reactant | 1-(2-Hydroxypropyl)-4-phenylpiperazine hydrochloride | 155 g | Cl.OC(CN1CCN(CC1)C1=CC=CC=C1)C
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 1-(2Chloropropyl)-4-phenylpiperazine dihydrochloride | Cl.Cl.ClC(CN1CCN(CC1)C1=CC=CC=C1)C | InChI=1S/C13H19ClN2.2ClH/c1-12(14)11-15-7-9-16(10-8-15)13-5-3-2-4-6-13;;/h2-6,12H,7-11H2,1H3;2*1H
